US08357688B2
A mixture of 1.79 g of methyl 5-amino-4-(2-cyclopentyl-1H-imidazol-1-yl)-2-methylbenzoate, 1.04 g of 1,1′-carbonyldiimidazole, and 18 mL of 1,2-dichlorobenzene was stirred at 190° C. for 3 hours. After air-cooling, the reaction mixture was purified by silica gel column chromatography (chloroform/methanol) to obtain 0.91 g of methyl 1-cyclopentyl-8-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline-7-carboxylate.

reactant | methyl 5-amino-4-(2-cyclopentyl-1H-imidazol-1-yl)-2-methylbenzoate | 1.79 g | NC=1C(=CC(=C(C(=O)OC)C1)C)N1C(=NC=C1)C1CCCC1 | C17H21N3O2
reactant | 1,1′-carbonyldiimidazole | 1.04 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichlorobenzene | 18 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | methyl 1-cyclopentyl-8-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline-7-carboxylate | 0.91 g | C1(CCCC1)C1=NC=C2N1C1=CC(=C(C=C1NC2=O)C(=O)OC)C | C18H19N3O3
